US07932262B2
Step 6. 4-(7-Bromoquinazolin-2-ylamino)-N-(3-(pyrrolidin-1-yl)propyl)benzenesulfonamide
To a 0.1M suspension of 7-bromo-2-chloroquinazoline in isopropanol was added 4-amino-N-(3-(pyrrolidin-1-yl)propyl)benzenesulfonamide (1.1 eq), followed by the addition of 4.0M HCl in dioxane (1.1 eq). The reaction mixture was heated to 120° C. in an oil bath for 1 h. LCMS showed that reaction was complete under the condition. Ethyl acetate was added to the reaction flask and the mixture was washed with saturated sodium bicarbonate, brine, dried over sodium sulfate and concentrated. Desired product was a yellow color solid. ES/MS m/z 490/492 (MH+).

reactant | 7-bromo-2-chloroquinazoline | BrC1=CC=C2C=NC(=NC2=C1)Cl | C8H4BrClN2
reactant | 4-amino-N-(3-(pyrrolidin-1-yl)propyl)benzenesulfonamide | 1.1 eq | NC1=CC=C(C=C1)S(=O)(=O)NCCCN1CCCC1 | C13H21N3O2S
reactant | HCl | 4.0M | Cl | ClH
reactant | dioxane | 1.1 eq | O1CCOCC1 | C4H8O2
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(7-Bromoquinazolin-2-ylamino)-N-(3-(pyrrolidin-1-yl)propyl)benzenesulfonamide | BrC1=CC=C2C=NC(=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)NCCCN1CCCC1 | C21H24BrN5O2S
